US04739066
In 10 ml of 1N aqueous sodium hydroxide solution is dissolved 0.35 g of 3(R)-[8-amino-1(S)-ethoxycarbonyloctyl]amino-4-0xo-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetic acid dihydrochloride, and the solution is left standing at room temperature for 30 minutes. Acetic acid (2.5 ml) is added to the solution and the resulting mixture is purified by Amberlite XAD-2 column chromatography (methanol:water=1:2). The eluate is concentrated under reduced pressure and lyophilized to give 0.24 g of 3(R)-[8-amino-1(S)-carboxyoctyl]amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetic acid as a colorless powder.

reactant | 3(R)-[8-amino-1(S)-ethoxycarbonyloctyl]amino-4-0xo-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetic acid dihydrochloride | 0.35 g | Cl.Cl.NCCCCCCC[C@@H](C(=O)OCC)N[C@H]1CSC2=C(N(C1=O)CC(=O)O)C=CC=C2
reactant | Acetic acid | 2.5 ml | C(C)(=O)O | C2H4O2
solvent | sodium hydroxide | 1N, 10 ml | [OH-].[Na+]
product | 3(R)-[8-amino-1(S)-carboxyoctyl]amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetic acid | 0.24 g | NCCCCCCC[C@@H](C(=O)O)N[C@H]1CSC2=C(N(C1=O)CC(=O)O)C=CC=C2 | C20H29N3O5S
